US06703182B1
Acetonitrile (25 ml) is added to a solution of potassium carbonate (3.45 g; 0.025 mol) in 15 ml of water and the mixture is cooled to 0° C. 4-Methoxycinnamaldehyde (8.1 g; 0.05 mol) dissolved in acetonitrile (25 ml) is added dropwise under efficient stirring over 30 min, keeping the temperature between 0 and 2° C., and the yellow mixture is further stirred 2 h at the same temperature. The phases are separated, the organic layer is washed with brine, dried over magnesium sulfate, and evaporated. The crude benzoic acid 1-cyano-3-(4-methoxyphenyl)-allyl ester (15 g), obtained as a pale yellow oil, is used for the next step without further purification.

reactant | potassium carbonate | 0.025 mol, 3.45 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-Methoxycinnamaldehyde | 0.05 mol, 8.1 g | COC1=CC=C(C=CC=O)C=C1 | C10H10O2
reactant | acetonitrile | 25 ml | C(C)#N | C2H3N
reactant | Acetonitrile | 25 ml | C(C)#N | C2H3N
solvent | water | 15 ml | O | H2O
product | benzoic acid 1-cyano-3-(4-methoxyphenyl)-allyl ester | 15 g | C(#N)C(C=CC1=CC=C(C=C1)OC)OC(C1=CC=CC=C1)=O | C18H15NO3
